US09079916B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(5-(4-(hydroxymethyl)phenyl)-6-methylpyridin-3-yl)cyclopropanecarboxamide was prepared from 4-(hydroxymethyl)phenylboronic acid and 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-bromo-6-methylpyridin-3-yl)cyclopropanecarboxamide in a manner analogous to that of 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-methyl-5-phenylpyridin-3-yl)cyclopropanecarboxamide.

reactant | 4-(hydroxymethyl)phenylboronic acid | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-bromo-6-methylpyridin-3-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=NC(=C(C2)Br)C | C17H15BrN2O3
reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-methyl-5-phenylpyridin-3-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=NC(=C(C2)C2=CC=CC=C2)C | C23H20N2O3
product | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(5-(4-(hydroxymethyl)phenyl)-6-methylpyridin-3-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=NC(=C(C2)C2=CC=C(C=C2)CO)C | C24H22N2O4
